### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): faithfully flat morphisms are topological quotient maps

### PR DESCRIPTION
**Pull request by chrisflav**
---

I think the import increase is fine, because we should consider all of the `RingTheory/RingHom` files as the leaf files of commutative algebra.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/Flat.lean [hunk 1]
```diff
@@ -71,6 +80,45 @@ lemma stalkMap [Flat f] (x : X) : (f.stalkMap x).hom.Flat :=
...
+    let 𝒰 := X.affineCover.finiteSubcover
+    let p : ∐ (fun i : 𝒰.J ↦ 𝒰.obj i) ⟶ X := Sigma.desc (fun i ↦ 𝒰.map i)
+    have _ (i : 𝒰.J) : IsAffine (𝒰.obj i) := inferInstanceAs <| IsAffine (X.affineCover.obj _)
+    have _ : Flat p := by
+      rw [IsLocalAtSource.iff_of_openCover (P := @Flat) (sigmaOpenCover _)]
+      exact fun i ↦ by simpa [p] using IsLocalAtSource.of_isOpenImmersion _
+    have _ : Surjective p := ⟨fun x ↦ by
+      obtain ⟨i, x, rfl⟩ := X.affineCover.finiteSubcover.exists_eq x
+      use (Sigma.ι (fun i ↦ X.affineCover.finiteSubcover.obj i) i).base x
+      rw [← Scheme.comp_base_apply, Sigma.ι_desc]⟩
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Flat.lean:111]: Can you move these to separate lemmas? Thanks!

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Yeah, `RingHom.flat` is very short and a leaf file. Thanks!

bors merge
